Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
hydromorphone
 
Attending: ___.
 
Chief Complaint:
Mechanical fall 
 
Major Surgical or Invasive Procedure:
___: Placement of thoracic epidural 
 
History of Present Illness:
Mr. ___ is a lovely ___ year old man with a history left 
lower extremity pain for which he underwent IT band injections 
last year now seen in consultation for management of four 
displaced left rib fractures sustained after suffering from a 
mechanical fall last evening. Mr. ___ states that he 
cannot recall what prompted him to fall but states that he 
remembers falling and asking for help immediately thereafter. He 
denies any heatstrike, LOC, or injuries to his arms or legs 
during the fall. He was assisted to his feet by his family with 
whom he lives and brought to the ED for evaluation given 
intense, sharp L chest pain and difficulties taking deep 
breaths. 

 
Past Medical History:
PMHx: none

PSHx: LIH in ___

 
Social History:
___
Family History:
None notable, mother lived to her late ___

 
Physical Exam:
Admission Physical Exam: 

98.3 81 149/86 16 97RA
Gen: AAOx3, appears in pain 
HEENT: EOMI, head atraumatic, ears and nares without e/o
bleeding, trachea in midline
CV: RRR
Resp/Chest: Severely point tender along the posterior and 
lateral
left chest without crepitus or evidence of flail chest. There is
no hematoma over this area. Clear breath sounds without 
wheezing.

Discharge Physical Exam:
VS: T: 98.1 PO BP: 108/68 HR: 71 RR: 18 O2: 96% Ra 
GEN: A+Ox3, NAD 
HEENT: atraumatic
CV: RRR
PULM: CTA b/l
CHEST: Left flank hematoma, soft with overlying skin intact. 
Symmetric chest expansion with inspiration.
ABD: soft, non-distended, non-tender to palpation 
EXT: wwp, no edema b/l
 
Pertinent Results:
IMAGING:

___: CXR (PA & LAT):
Multiple left-sided rib fractures specifically the sixth through 
tenth ribs, some of which are displaced.  No pneumothorax. 

___: CT Torso:
1. Minimally displaced segmental lateral rib fractures of the 
left sixth 
through tenth ribs.  Small left mildly complex pleural effusion 
suggestive of hemothorax.  No pneumothorax. 
2. Right lower lobe consolidation, concerning for pneumonia or 
aspiration.  Diffuse airway wall thickening with mucous plugging 
in the right lower lobe. 
3. Pancreatic tail cystic lesion measuring 4.5 x 3.4 cm, 
possibly representing a side branch IPMN. If clinically 
indicated, consider MRI for further evaluation. 
4. 3 mm left lower lobe nodule.  Please refer to the 
recommendation section for follow-up recommendations. 
5. Hypodensity in the lower pole of the left kidney measuring 
1.3 cm 
demonstrating possible mural enhancement.  If clinically 
indicated, consider dedicated renal ultrasound. 
6. 3 mm nonobstructing distal right ureteral calculus. 
  
RECOMMENDATION(S): 
1. MRI can be consider for the pancreatic cystic lesion. 
2. Renal ultrasound can be considered for left renal 
hypodensity. 
3. For incidentally detected single solid pulmonary nodule 
smaller than 6 mm, no CT follow-up is recommended in a low-risk 
patient, and an optional CT in 12 months is recommended in a 
high-risk patient. 
 
LABS:

___ 01:18PM   LACTATE-2.4*
___ 02:06AM   GLUCOSE-120* UREA N-21* CREAT-1.1 SODIUM-136 
POTASSIUM-4.4 CHLORIDE-98 TOTAL CO2-20* ANION GAP-18
___ 02:06AM   CALCIUM-8.6 PHOSPHATE-3.4 MAGNESIUM-2.1
___ 02:06AM   WBC-15.1* RBC-4.65 HGB-13.1* HCT-39.2* MCV-84 
MCH-28.2 MCHC-33.4 RDW-15.3 RDWSD-46.1
___ 02:06AM   PLT COUNT-205
___ 09:00PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-POSITIVE*
___ 08:51PM   LACTATE-2.4*
___ 08:41PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:41PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-TR* BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 08:41PM URINE  RBC-5* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 08:41PM URINE  MUCOUS-RARE*
___ 04:35PM   GLUCOSE-121* UREA N-23* CREAT-1.2 SODIUM-137 
POTASSIUM-4.5 CHLORIDE-97 TOTAL CO2-22 ANION GAP-18
___ 02:18PM   LACTATE-3.7*
___ 01:34PM   WBC-12.7* RBC-5.37 HGB-15.0 HCT-45.6 MCV-85 
MCH-27.9 MCHC-32.9 RDW-15.4 RDWSD-47.4*
___ 01:34PM   NEUTS-87.8* LYMPHS-6.4* MONOS-5.1 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-11.19* AbsLymp-0.82* AbsMono-0.65 
AbsEos-0.00* AbsBaso-0.02
___ 01:34PM   PLT COUNT-217

MICROBIOLOGY:

___ 8:41 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
 
Brief Hospital Course:
Mr. ___ is a ___ who presented to ___ s/p mechanical 
fall from standing and was found on imaging to have four 
displaced left-sided rib fractures. He denies any ___ or 
LOC. The patient was admitted to the Trauma service for pain 
control and pulmonary toilet.  The Acute Pain Service (APS) was 
consulted for epidural placement.

On HD1, the patient had an episode of Afib vs Aflutter w/ RVR 
responsive to Metoprolol 5mg IV x1. APS placed a thoracic 
epidural. The patient was initially called out to the floor 
however after starting epidural infusion with bupi + dilaudid, 
the patient became agitated/delirious and pulling at lines, 
trying to get out of bed, with AMS thought to be exacerbated by 
dilaudid.  The epidural was switched to plain bupi which was 
effective and the patient had no further episodes of agitation. 
Trazadone 50mg was provided for sleep. Due to c/f agitation and 
elevated HRs, the patient remained in the ICU. Cardiology was 
curbsided re: new onset Afib, thought likely to be Afib vs 2:1 
Aflutter, and recommended beta-blockade and nonurgent medicine 
consult once on floor to discuss systemic AC. It was recommended 
he follow-up with his PCP for this issue. Pain well controlled 
on thoracic epidural with bupiviciane.  

On HD2, the patient's pain remained well-controlled.  He was 
started on PO Lopressor w/ IV for breakthrough, HR continued to 
be in 100s.  The patient was upset that he could not leave, 
stood up from chair and fell with back against the wall at 1800, 
witnessed by nurse, ___, no LOC, mental status at 
baseline directly subsequent to the event, no new bruises or 
deformities on head/neck/back so was not worked up further.  He 
continued to retain urine requiring intermittent straight 
catheterization, started on tamsulosin qHS. Flu swab repeated, 
positive.  

On HD3, APS recommended continuing the epidural given 
delirium/agitation with narcotics in past and no other good 
options for pain control, IS. ___ worked with the patient.  The 
patient was transferred to the surgical floor.

On HD4, the epidural was capped and then later removed.  The 
patient reported minimal pain and received tramadol and 
acetaminophen prn for pain control.  The patient worked with 
Physical Therapy and was approved for discharge home with home 
___.  At the time of discharge, the patient was hemodynamically 
stable, tolerating a regular diet and pain was well-controlled.  
He was discharged home in stable condition. 
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 200 mg PO TID 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID:PRN constipation   
3.  Lidocaine 5% Patch 1 PTCH TD QAM rib fx's 
apply for 12 hours and then remove and leave off for 12 hours 
RX *lidocaine 5 % Apply 1 patch to area of rib pain QAM Disp 
#*15 Patch Refills:*0 
4.  Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*60 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN Constipation   
6.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth at bedtime Disp #*7 
Capsule Refills:*0 
7.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*10 Tablet Refills:*0 
8.  Gabapentin 200 mg PO TID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Left ___ rib fractures

Secondary:
Influenza B by PCR  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid 

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after 
a fall and you were found to have multiple left-sided rib 
fractures.  You were admitted to the Trauma Surgery service for 
pain control and to monitor your breathing.  You had an epidural 
placed by the Acute Pain service for pain control and you were 
transferred to the Intensive Care Unit (ICU).  You also tested 
positive for the flu and were placed on droplet precautions.  

After remaining stable in the ICU, you were transferred to the 
surgical floor.  Your epidural was removed and you were started 
on oral pain medication.  Your pain is now controlled with oral 
pain medication and your ability to take deep breaths has 
improved.  You have worked with Physical Therapy and it is 
recommended that you be discharged home with home physical 
therapy services.  You also will have home visiting nursing 
services. 

You are now ready to be discharged home to continue your 
recovery.  Please note the following discharge instructions:

Rib Fractures:

* Your injury caused left-sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

Influenza Instructions: Seek medical attention if: 
• fever rises to ___ F (39.4 C) or higher
• the fever accompanied by sweating
• you experience chills and a cough with colored phlegm
• you have significantly swollen glands
• you feel severe sinus pain 

 
Followup Instructions:
___